Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],4.17022756186
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5],5.3302911874
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],4.7794398285
[H:12].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]#[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],-2.03044415877
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-3.92995937972
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2],5.5212193343400005
[H:11].[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.81893484619
[C:2](#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.8318396948
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],1.72987407458
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.63190273046
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[H:9].[O:4][H:5],2.44211537625
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],3.95085148988
[H:1][C:2]([O:3][C:4]=[O:5])=[C:6]([H:7])[H:8]>>[H:1][C:2]1[O:3][C:4][O:5][C:6]1([H:7])[H:8],1.20610688302
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],0.6779335442899999
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8][H:9],5.07336928728
[H:13].[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.45089971718
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[O:9][H:10],4.42222637324
[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.58397071134
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])[H:13],4.53977704122
[C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-5.860096555780001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]1=[C:9]([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11]([H:12])[H:13],1.5101019398700002
[H:1][O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.63527995532
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.6078024914
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],3.94860707495
[C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-0.824888206989
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][O:4],5.24105976524
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]#[C:8][H:9],2.57682252156
[H:3].[O:1]=[C:2]=[C:4][O:5][C:6][H:7]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6][H:7],-2.59141331355
[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.87107069066
